US05204326
Preparation of Boc-Ser(Bzl)-Leu-OEt
By using 7.37 g of Boc-Ser(Bzl)-OH and 5.00 g of H-Leu-OEt, and the same procedure as in Reference Example 15 was repeated to obtain 7.53 g (yield: 69.1%) of the above-mentioned objective product.

reactant | Boc-Ser(Bzl)-OH | 7.37 g | N([C@@H](COCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C15H21NO5
reactant | H-Leu-OEt | 5.00 g | N[C@@H](CC(C)C)C(=O)OCC | C8H17NO2
product | Boc-Ser(Bzl)-Leu-OEt | 7.53 g, yield: 69.1% | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OC(C)(C)C | C23H36N2O6
